US08604069B2
(A-27-3) Imidazole-1-sulfonyl azide hydrochloride
Sodium azide (13.0 g) and acetonitrile (200 mL) were mixed. To the mixture was added dropwise sulfuryl chloride (16.1 mL) at ice temperature. The mixture was stirred at RT overnight, and then to the mixture was added imidazole (25.9 g) at ice temperature. The mixture was stirred at RT for 4 hr, and then to the mixture was added ethyl acetate. The mixture was washed with water (400 mL×2) and saturated aqueous sodium bicarbonate (400 mL×2), then dried over magnesium sulfate. The magnesium sulfate was filtered off. To the filtrate was added a solution of hydrochloric acid in ethyl acetate at ice temperature. The precipitated solid was collected on a filter to give the title compound (27.7 g).

reactant | Sodium azide | 13.0 g | [N-]=[N+]=[N-].[Na+]
reactant | acetonitrile | 200 mL | C(C)#N | C2H3N
reactant | sulfuryl chloride | 16.1 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | imidazole | 25.9 g | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Imidazole-1-sulfonyl azide hydrochloride | 27.7 g | Cl.N1(C=NC=C1)S(=O)(=O)N=[N+]=[N-] | InChI=1S/C3H3N5O2S.ClH/c4-6-7-11(9,10)8-2-1-5-3-8;/h1-3H;1H
